US07598418B2
(2) Preparation of N-benzyl-5-nitronaphthalene-1-carboxamide
Triethylamine (0.16 ml, 1.15 mmol) and ethyl chloroformate (0.11 ml, 1.115 mmol) were added to a suspension of 5-nitronaphthalene-1-carboxylic acid (250 mg, 1.15 mmol) and anhydrous tetrahydrofuran (3 ml) under ice cooling, and the mixture was stirred for 0.5 hour. Benzylamine (0.13 ml, 1.20 mmol) was added to the reaction mixture and the mixture was stirred at room temperature for 6 hours. Water was added to the reaction solution, and after the mixture was stirred for 10 minutes, the resulting precipitate was collected. The precipitate was washed with water and isopropyl ether, and dried to give the title compound as a light brown solid (189 mg, 53.5%).

reactant | Triethylamine | 1.15 mmol, 0.16 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.115 mmol, 0.11 ml | ClC(=O)OCC | C3H5ClO2
reactant | 5-nitronaphthalene-1-carboxylic acid | 1.15 mmol, 250 mg | [N+](=O)([O-])C1=C2C=CC=C(C2=CC=C1)C(=O)O | C11H7NO4
reactant | Benzylamine | 1.20 mmol, 0.13 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | Water | O | H2O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | N-benzyl-5-nitronaphthalene-1-carboxamide | 189 mg, 53.5% | C(C1=CC=CC=C1)NC(=O)C1=CC=CC2=C(C=CC=C12)[N+](=O)[O-] | C18H14N2O3
